US05582765
A Grignard reagent was prepared from 30.5 g of 4-bromo-2-fluorophenol t-butyldimethylsilyl ether and 2.43 g of magnesium in 100 ml of tetrahydrofuran. 20.0 g of 4-n-pentyl-4-phenyl-4-silacyclohexanone was dropped in the resultant solution at 25° C. The reaction mixture was agitated at 25° C. for 5 hours and poured into an ammonium chloride aqueous solution, followed by extraction with ethyl acetate. The ethyl acetate solution was washed with brine, dried and concentrated. 400 ml of benzene and 800 mg of p-toluenesulfonic acid monohydrate were added to the resultant residue, followed by removal of generated water under reflux. When distilling of water was stopped, the benzene solution was concentrated, followed by purification of the resultant residue to obtain 31.6 g (yield: 88%) of 2-fluoro-4-(4-n-pentyl-4-phenyl)-4-sila-1-cyclohexnyl)phenol t-butyldimethylsilyl ether.

reactant | 4-bromo-2-fluorophenol t-butyldimethylsilyl ether | 30.5 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)Br)F | C12H18BrFOSi
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | 4-n-pentyl-4-phenyl-4-silacyclohexanone | 20.0 g | C(CCCC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C16H24OSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | phenol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OC1=CC=CC=C1 | C12H20OSi
